US08258140B2
10% Palladium on carbon (0.536 g, 0.50 mmol) was added to methyl 2-[4-[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenoxy]acetate (1.096 g, 2.52 mmol) and ammonium formate (1.587 g, 25.17 mmol) in ethanol (50 mL). The resulting mixture was stirred at 78° C., with further portions of ammonium formate being added every 5 hours until the reaction was complete. The reaction mixture was cooled to room temperature and the catalyst was removed by filtration. The filtrate was evaporated to dryness, redissolved in DCM (100 mL) and the solution was washed with water (50 mL) followed by brine (50 mL), then the solvents were evaporated to give crude product. The crude product was purified by flash silica chromatography, eluting with a gradient of 50 to 80% EtOAc in isohexane. Pure fractions were evaporated to afford ethyl 2-[4-[1-[3-(trifluoromethyl)-7,8-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenoxy]acetate (0.820 g, 72.2%) as a gum.

reactant | methyl 2-[4-[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenoxy]acetate | 2.52 mmol, 1.096 g | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)C2=CC=C(OCC(=O)OC)C=C2)(F)F | C20H20F3N5O3
reactant | ammonium formate | 25.17 mmol, 1.587 g | C(=O)[O-].[NH4+]
catalyst | Palladium on carbon | 0.50 mmol, 0.536 g | [Pd] | Pd
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | ethyl 2-[4-[1-[3-(trifluoromethyl)-7,8-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenoxy]acetate | 0.820 g, 72.2% | FC(C1=NN=C2N1N=C(CC2)N2CCC(CC2)C2=CC=C(OCC(=O)OCC)C=C2)(F)F | C21H24F3N5O3
